US06071927
Methyl 3-Bromo-4-(2,2,2-trifluoroethoxy)benzoate
Sodium hydride (60% dispersion in mineral oil, 520 mg, 13.0 mmol) was added to a stirred, cooled (0° C.) solution of methyl 3-bromo-4-hydroxybenzoate (Description 64, 3.0 g, 13.0 mmol) in N,N'-dimethylformamide (100 ml) and the mixture was stirred at 0° C. for 15 min. 2,2,2-Trifluoroethyltosylate (6.61 g, 26.0 mmol) in N,N'-dimethylformamide (50 ml) was added and the mixture was stirred at 100° C. for 16 h. The mixture was concentrated under reduced pressure to half volume and poured into aqueous sodium hydroxide solution (1 M, 300 ml). The mixture was extracted with ethyl acetate (2×350 ml) and the combined organic fractions were dried (Na2SO4) and the solvent was evaporated under reduced pressure. The residue was purified by column chromatography on silica gel, eluting with hexane/EtOAc to give the title compound as a colorless oil (1.37 g, 34%). 1H NMR (250 MHz, CDCl3) δ8.27 (1 H, d, J 2.1 Hz), 7.99 (1 H, dd, J 2.1, 8.6 Hz), 6.92 (1 H, d, J 8.6 Hz), 4.42-4.52 (2 H, quartet, J 7.9 Hz), and 3.91 (3 H, s).

reactant | Sodium hydride | 13.0 mmol, 520 mg | [H-].[Na+]
reactant | methyl 3-bromo-4-hydroxybenzoate | 13.0 mmol, 3.0 g | BrC=1C=C(C(=O)OC)C=CC1O | C8H7BrO3
reactant | 2,2,2-Trifluoroethyltosylate | 26.0 mmol, 6.61 g | FC(COS(=O)(=O)C1=CC=C(C)C=C1)(F)F | C9H9F3O3S
solvent | N,N'-dimethylformamide | 100 ml | CN(C)C=O | C3H7NO
solvent | N,N'-dimethylformamide | 50 ml | CN(C)C=O | C3H7NO
product | Methyl 3-Bromo-4-(2,2,2-trifluoroethoxy)benzoate | 1.37 g, 34% | BrC=1C=C(C(=O)OC)C=CC1OCC(F)(F)F | C10H8BrF3O3
